US07939666B2
Stage 2: (S)-2-Amino-3-tert-butylsulfanyl-propionic acid cyclopentyl ester
(S)-3-tert-Butylsulfanyl-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid cyclopentyl ester (1.63 g, 3.50 mmol) was dissolved in a CH3CN (25 ml) at 0° C. Piperidine (21 ml) was added to the solution. After stirring for 30 minutes, the solvent was removed in vacuo to give a residue. Purification by column chromatography (EtOAc eluent) gave the product as a colourless oil (628 mg, 73% yield). 1H NMR (300 MHz, CDCl3), δ: 1.30 (9H, s, (CH3)3), 1.55-1.95 (8H, m, CH2×4), 2.75 (1H, dd, CH, J=7.2, 12.3 Hz), 2.95 (1H, dd, CH, J=4.8, 12.3 Hz), 5.25 (1H, m, CH).

reactant | (S)-3-tert-Butylsulfanyl-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid cyclopentyl ester | 3.50 mmol, 1.63 g | C1(CCCC1)OC([C@@H](CSC(C)(C)C)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C27H33NO4S
reactant | Piperidine | 21 ml | N1CCCCC1 | C5H11N
solvent | CH3CN | 25 ml | CC#N | C2H3N
product | (S)-2-Amino-3-tert-butylsulfanyl-propionic acid cyclopentyl ester | 628 mg, 73% yield | C1(CCCC1)OC([C@@H](CSC(C)(C)C)N)=O | C12H23NO2S
